US04283414
3-Phenoxybenzyl α-fluoro-α-isopropylphenylacetate (21)
This compound was prepared from 3-phenoxybenzyl bromide and α-fluoro-α-isopropylphenylacetic acid following the method used in Example 2 Method B for the preparation of α-fluoro-3-phenoxybenzyl α-isopropyl-4-chlorophenylacetate. The product, a colourless oil, was characterised by pmr spectroscopy. Chemical shift ppm (solvent CDCl3): 0.69(3H, d, J=6Hz, CH3); 1.05 (3H, d of d, J=6Hz and J=2Hz, CH3); 2.34(1H, m, CH(CH3)2); 3.27(1H, d, J=10Hz, CH); 7.17(1H, d of d, J=56Hz and J=2Hz, CHF) and c. 7.20(14H, m, aromatic protons).

reactant | 3-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | α-fluoro-α-isopropylphenylacetic acid | FC(C(=O)O)(C(C)C)C1=CC=CC=C1 | C11H13FO2
reactant | α-fluoro-3-phenoxybenzyl α-isopropyl-4-chlorophenylacetate | C(C)(C)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)F)C1=CC=C(C=C1)Cl | C24H22ClFO3
product | 3-Phenoxybenzyl α-fluoro-α-isopropylphenylacetate | FC(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)(C(C)C)C1=CC=CC=C1 | C24H23FO3
